US06949571B2
3-(2-Chlorophenyl)-5-(2-pyridyl)-1-(4-hydroxyphenyl)-1,2-dihydropyridin-2-one
3-(2-Chlorophenyl)-5-(2-pyridyl)-1-(4-methoxyphenyl)-1,2-dihydropyridin-2-one (440 mg) was dissolved in 5 ml of 48% hydrobromic acid and heated to reflux for 1 hours. After the reaction solution was allowed to cool at room temperature, it was diluted with a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. The drying agent was filtered off and the filtrate was concentrated in vacuo and purified by a silica gel column chromatography (hexane-ethyl acetate system) to give 292 mg of the title compound.

reactant | 3-(2-Chlorophenyl)-5-(2-pyridyl)-1-(4-methoxyphenyl)-1,2-dihydropyridin-2-one | 440 mg | ClC1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=C(C=C1)OC)=O | C23H17ClN2O2
solvent | hydrobromic acid | 5 ml | Br | BrH
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-(2-Chlorophenyl)-5-(2-pyridyl)-1-(4-hydroxyphenyl)-1,2-dihydropyridin-2-one | 292 mg | ClC1=C(C=CC=C1)C=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=C(C=C1)O)=O | C22H15ClN2O2
